US07456169B2
5-(4-iodo-2-methoxyphenyl)-3-methyl-1,2,4-oxadiazole
A mixture of 4-iodo-2-methoxy benzoic acid (83 mg, 0.3 mmol), HATU (114 mg, 0.3 mmol), DIEA (26 μL, 0.15 mmol), and HOBt (8 mg, 0.06 mmol) in DMF was stirred at room temperature for 5 minutes. Acetamide oxime (22 mg, 0.3 mmol) was added, and reaction was stirred for 30 minutes at room temperature. The reaction was then heated to 110° C. for 16 hours. Cooled to room temperature. Partitioned between ethyl acetate and water. The organic layer was washed with brine, dried (MgSO4), filtered, and concentrated under vacuum. The residue was purified by HPLC to provide 37 mg (39%) of desired product. MS (ESI) m/e 317 (M+H)+, 1H NMR (300 MHz, DMSO-d6): □ 7.70 (d, J=8.14 Hz, 1H), 7.64 (d, J=1.36 Hz, 1H), 7.53 (dd, J=8.31-1.53 Hz, 1H), 3.94 (s, 3H), 2.40 (s, 3H).

reactant | 4-iodo-2-methoxy benzoic acid | 0.3 mmol, 83 mg | IC1=CC(=C(C(=O)O)C=C1)OC | C8H7IO3
reactant | HATU | 0.3 mmol, 114 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 0.15 mmol, 26 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | HOBt | 0.06 mmol, 8 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | Acetamide oxime | 0.3 mmol, 22 mg | C(C)(N)=NO | C2H6N2O
solvent | DMF | CN(C)C=O | C3H7NO
product | 5-(4-iodo-2-methoxyphenyl)-3-methyl-1,2,4-oxadiazole | 37 mg, 39% | IC1=CC(=C(C=C1)C1=NC(=NO1)C)OC | C10H9IN2O2
